US08486939B2
A mixture of 1-[4-chloro-6-(4-morpholinyl)-2-pyrimidinyl]-2-(difluoromethyl)-1H-benzimidazole (200 mg, 0.547 mmol), pyrimidine-5-boronic acid (203 mg, 1.64 mmol), PdCl2(dppf) (45 mg, 0.0551 mmol), and aq. K2CO3 (2M, 4 mL) in 1,4-dioxane (20 mL) was refluxed under nitrogen for 2.5 hrs. Additional pyrimidine-5-boronic acid (203 mg, 1.64 mmol) and PdCl2(dppf) (23 mg, 0.0282 mmol) were added, and the mixture was refluxed for additional 16.5 hrs under nitrogen. The mixture was cooled to room temperature, diluted with H2O, extracted with CH2Cl2 (4×), and the combined organic extracts were dried (Na2SO4), and the solvents were removed under vacuum. Chromatography on silica, eluting with CH2Cl2/MeOH (100:0 to 97:3), followed by recrystallization from CH2Cl2/MeOH/i-Pr2O gave 2-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-4,5′-bipyrimidine (177 mg, 79%): mp 209-211° C.; 1H NMR (CDCl3) δ9.37 (s, 2H), 9.37 (s, 1H), 8.37 (m, 1H), 7.93 (m, 1H), 7.59 (t, JHF=53.7 Hz, 1H), 7.49-7.41 (m, 2H), 6.86 (s, 1H), 3.91 (m, 4H), 3.85 (m, 4H); Anal. Calcd. for C20H17F2N7O: C, 58.7; H, 4.2; N, 23.95. Found: C, 58.4; H, 3.9; N, 23.9%.

reactant | 1-[4-chloro-6-(4-morpholinyl)-2-pyrimidinyl]-2-(difluoromethyl)-1H-benzimidazole | 0.547 mmol, 200 mg | ClC1=NC(=NC(=C1)N1CCOCC1)N1C(=NC2=C1C=CC=C2)C(F)F | C16H14ClF2N5O
reactant | pyrimidine-5-boronic acid | 1.64 mmol, 203 mg | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | K2CO3 | 2M, 4 mL | C(=O)([O-])[O-].[K+].[K+]
reactant | pyrimidine-5-boronic acid | 1.64 mmol, 203 mg | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | H2O | O | H2O
catalyst | PdCl2(dppf) | 0.0551 mmol, 45 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | PdCl2(dppf) | 0.0282 mmol, 23 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-4,5′-bipyrimidine | 177 mg, 79% | FC(C1=NC2=C(N1C1=NC(=CC(=N1)C=1C=NC=NC1)N1CCOCC1)C=CC=C2)F | C20H17F2N7O
